US06809110B2
In analogy to the procedure described in example 10 d], (2S)-3-{4-[2-(3-chloro-4-fluoro-phenyl)-thiazol-4-ylmethoxy]-2-methyl-phenyl}-2-ethoxy-propionic acid methyl ester was treated with LiOH to obtain (2S)-3-{4-[2-(3-chloro-4-fluoro-phenyl)-thiazol-4-ylmethoxy]-2-methyl-phenyl}-2-ethoxy-propionic acid as colorless solid.

reactant | (2S)-3-{4-[2-(3-chloro-4-fluoro-phenyl)-thiazol-4-ylmethoxy]-2-methyl-phenyl}-2-ethoxy-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1)OCC=1N=C(SC1)C1=CC(=C(C=C1)F)Cl)C)OCC)=O | C23H23ClFNO4S
reactant | LiOH | [Li+].[OH-]
product | (2S)-3-{4-[2-(3-chloro-4-fluoro-phenyl)-thiazol-4-ylmethoxy]-2-methyl-phenyl}-2-ethoxy-propionic acid | ClC=1C=C(C=CC1F)C=1SC=C(N1)COC1=CC(=C(C=C1)C[C@@H](C(=O)O)OCC)C | C22H21ClFNO4S
